Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
Left Thoracentesis- yield 1300mL

 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of carotid 
artery stenosis, chronic renal insufficiency, coronary artery 
disease, hyperlipidemia, and hypertension. He developed upper 
back pain in ___ and presented to an outside hospital. An 
EKG demonstrated nonspecific ST changes. Cardiac catheterization 
demonstrated severe multivessel coronary artery disease. He was
transferred to ___ for surgical revascularization. He 
underwent coronary artery bypass grafting x 5 on ___ with 
Dr. ___. His postoperative course was complicated by acute blood 
loss anemia requiring transfusion of PRBCs. He also had 
intermitted atrial fibrillation and was started on Amiodarone 
and Coumadin. He was discharged to rehab on postoperative day 5. 
He has remained deconditioned at rehab. He has noted shortness 
of breath and serosanguinous sternal drainage. WBC at rehab 
yesterday was 15.8 and he was started on empiric Keflex. He 
presented today for wound evaluation. Prior to his visit he 
underwent a chest x-ray which demonstrated an increase in 
moderate to large left pleural effusion with compressive 
atelectasis. There was also a mildly enlarged cardiomediastinal 
silhouette suspicious for pericardial effusion. Discussed his 
case with Dr. ___ who is covering for Dr. ___. Plan to admit
for observation.

 
Past Medical History:
Carotid Artery Stenosis
Chronic Renal Insufficiency (Cre 1.2-1.4)
Coronary Artery Disease
Hyperlipidemia
Hypertension
Macular Degeneration 
Non-ST Elevation Myocardial Infarction, ___ w/RCA stent
Osteoarthritis  

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.
 
Physical Exam:
HR: 78 SR.  BP: 137/80, right.  RR: 18.  O2 Sat: 97% RA
Height: 66"  Weight: 172 lbs 

General: Pleasant man, WDWN, lying in stretcher 
Skin: Warm, dry, intact
HEENT: PERRLA, EOMI, teeth in good repair 
Neck: Supple, Full ROM 
Chest: Diminished at bilateral bases, no crackles 
Heart: Regular rate and rhythm, no murmur appreciated 
Abdomen: Normal BS, soft, non-tender, non-distended 
Extremities: Warm, well-perfused 
Edema: 1+ edema bilaterally 
Incision: ABD pad removed with scant serosanguinous drainage. 
Wound well approximated without erythema. No click. 

 
Pertinent Results:
Transthoracic Echocardiogram (focused) ___
Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Overall left ventricular 
systolic function is normal (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. 
Trivial mitral regurgitation is seen. There is a 
trivial/physiologic pericardial effusion. 

IMPRESSION: Trivial pericardial effusion. Normal global 
biventricular systolic function.  

Chest CT ___
1. Large left pleural effusion with volume loss in the left 
lower lobe, 
lingula. 
2. Mild partially hemorrhagic pericardial effusion. 
.

___ 05:07AM BLOOD WBC-16.8* RBC-3.68* Hgb-10.8* Hct-33.9* 
MCV-92 MCH-29.3 MCHC-31.9* RDW-15.1 RDWSD-50.4* Plt ___
___ 04:25AM BLOOD WBC-21.3* RBC-3.51* Hgb-10.1* Hct-32.3* 
MCV-92 MCH-28.8 MCHC-31.3* RDW-15.3 RDWSD-51.4* Plt ___
___ 05:07AM BLOOD ___ PTT-31.8 ___
___ 04:25AM BLOOD ___
___ 04:35AM BLOOD ___
___ 05:01PM BLOOD ___ PTT-30.4 ___
___ 05:07AM BLOOD Glucose-99 UreaN-30* Creat-1.4* Na-138 
K-4.4 Cl-96 HCO3-27 AnGap-19
___ 04:35AM BLOOD Glucose-95 UreaN-26* Creat-1.3* Na-137 
K-3.9 Cl-98 HCO3-24 AnGap-19
___ 05:07AM BLOOD ALT-82* AST-125* AlkPhos-184* 
Amylase-159* TotBili-3.0*
___ 04:25AM BLOOD ALT-77* AST-113* LD(LDH)-441* 
AlkPhos-182* Amylase-140* TotBili-3.2*
___ 05:07AM BLOOD Phos-4.3 Mg-2.3
___ 04:35AM BLOOD Calcium-7.9* Phos-4.4 Mg-2.6
 
Brief Hospital Course:
He was admitted on ___ for further evaluation. A chest CT 
demonstrated a large left pleural effusion. An echocardiogram 
revealed a trivial pericardial effusion.  Warfarin was held for 
procedure.   He underwent left sided thoracentesis on ___ 
for a yield of 1300cc of serosanguinous fluid.  Overall, the 
patient tolerated the procedure well.  Warfarin was resumed for 
post-op afib.  LFTs noted to be elevated- labs will be repeated 
as an outpatient.  He is discharged home after clearing ___ on 
hospital day 3.  He will follow-up as directed.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Amiodarone 400 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. Furosemide 40 mg PO DAILY 
___  MD to order daily dose PO DAILY16 afib 
7. Metoprolol Tartrate 50 mg PO TID 
8. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain: 
moderate/severe 
9. Polyethylene Glycol 17 g PO DAILY 
10. Potassium Chloride 20 mEq PO DAILY 
11. Ranitidine 150 mg PO DAILY 

 
Discharge Medications:
1.  Amiodarone 200 mg PO DAILY 
RX *amiodarone 200 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1 
2.  Warfarin 2 mg PO DAILY16 afib 
RX *warfarin 2 mg ___ tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*1 
3.  Aspirin 81 mg PO DAILY 
RX *aspirin [Aspir-Low] 81 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1 
4.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth qpm Disp #*30 Tablet 
Refills:*0 
5.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*1 
6.  Furosemide 40 mg PO DAILY Duration: 10 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*10 Tablet 
Refills:*0 
7.  Metoprolol Tartrate 50 mg PO TID 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*1 
8.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain: 
moderate/severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0 
9.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*10 Packet Refills:*0 
10.  Potassium Chloride 20 mEq PO DAILY Duration: 10 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*10 Tablet Refills:*0 
11.  Ranitidine 150 mg PO DAILY 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Pleural Effusion

Carotid Artery Stenosis
Chronic Renal Insufficiency (Cre 1.2-1.4)
Coronary Artery Disease
Hyperlipidemia
Hypertension
Macular Degeneration 
Non-ST Elevation Myocardial Infarction, ___ w/RCA stent
Osteoarthritis  

 
Discharge Condition:
Alert and oriented x3 non-focal 
Ambulating, deconditioned
Incisional pain managed with oxycodone
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg/left- healing well, no erythema or drainage
Edema: trace bilateral pedal

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for one month or while taking narcotics. Driving will 
be discussed at follow up appointment with surgeon-when you will 
be able to drive 
No lifting more than 10 pounds for 10 weeks

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___